US04107307
2-n-Propyl-4-imidazolemethanol
A mixture of 180 gm. of 1,3-dihydroxyacetone dimer, 245 gm. of butyramidine hydrochloride and 1 liter of liquid ammonia are warmed to 60° C. for 5 hours in a bomb. The mixture is evaporated to dryness and the residue is stirred with 600 ml. of 2-propanol. The mixture is filtered and the filtrate is concentrated in vacuo. A 600 ml. portion of 50% saturated aqueous sodium carbonate is added and the mixture is extracted with three 150 ml. portions of tetrahydrofuran. The combined organic layers are washed with 330 ml. of saturated aqueous sodium carbonate. The organic layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is twice recrystallized from acetone giving the product, m.p 95°-101° C.

reactant | 1,3-dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | butyramidine hydrochloride | Cl.C(CCC)(=N)N
reactant | ammonia | N | H3N
product | 2-n-Propyl-4-imidazolemethanol | C(CC)C=1NC=C(N1)CO | C7H12N2O
